US06153752
Methyl-2-amino-pyrimidine-5-carboxylate
To a stirred solution of 4.30 g guanidine hydrochloride in 50.00 g dimethyl formamide, 10.00 g 3,3-dimethoxy-2-dimethoxymethyl-propionate were added. The resulting clear solution was heated to 100° C. for 2 hours and to 140° C. for an additional 20 hours. After cooling to 60° C., the solvent was completely removed in vacuo and the resulting light brown residue thoroughly extracted with boiling tetrahydrofurane. After distilling off the majority of the solvent, the crystalline product was isolated by suction filtration and subsequent drying in vacuo. A total of 4.34 g (63% of theory based on 3,3-dimethoxy-2-dimethoxymethyl-propionate) of methyl-2-amino-pyrimidine-5-carboxylate could be isolated in this way. Identification of the product was based on 1H-NMR-, 13C- and IR-spectra.

reactant | guanidine hydrochloride | 4.30 g | Cl.NC(=N)N
reactant | 3,3-dimethoxy-2-dimethoxymethyl-propionate | 10.00 g | COC(C(C(=O)[O-])C(OC)OC)OC
solvent | dimethyl formamide | 50.00 g | CN(C=O)C | C3H7NO
product | Methyl-2-amino-pyrimidine-5-carboxylate | COC(=O)C=1C=NC(=NC1)N | C6H7N3O2
